US08629137B2
Step 1: 6-(3-bromo-benzoyl)-4-methyl-3H-benzoxazol-2-one
2.08 g (9.48 mmol) 3-bromo-benzoic acid chloride, 1.41 g (9.48 mmol) 4-methyl-3H-benzoxazol-2-one and 5.33 g (40.0 mmol) aluminium trichloride were heated to 125° C. with stirring for 1.5 h. Then the mixture was mixed with ice water and the grease precipitated was separated from the solvent by decanting. The residue was dissolved in EtOAc, evaporated down and a little MeOH was triturated. The precipitate formed was suction filtered, washed with diethyl ether and dried i. vac.

reactant | 3-bromo-benzoic acid chloride | 9.48 mmol, 2.08 g | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
reactant | 4-methyl-3H-benzoxazol-2-one | 9.48 mmol, 1.41 g | CC1=CC=CC2=C1NC(O2)=O | C8H7NO2
reactant | aluminium trichloride | 40.0 mmol, 5.33 g | [Cl-].[Cl-].[Cl-].[Al+3]
product | 6-(3-bromo-benzoyl)-4-methyl-3H-benzoxazol-2-one | BrC=1C=C(C(=O)C2=CC3=C(NC(O3)=O)C(=C2)C)C=CC1 | C15H10BrNO3
